US08981111B2
To a stirred solution of ((Z)-N-hydroxy-1-(1-methyl-1H-1,2,4-triazol-5-yl)-1-phenylmethanimine (7 g, 34.61 mmol, 1.0 eq.) in 500 ml of MeCN was added Cs2CO3 (12.40 g, 38.07 mmol, 1.1 eq.) followed by Kl (0.575 g, 3.46 mmol, 0.1 eq.) in one portion. The resulting suspension was stirred for 5 mins before addition of 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione (10.97 g, 34.61 mmol, 1.0 eq.) in one portion. The reaction was stirred for 4 h at room temperature. The solid was removed by filtration and washed with 250 ml of fresh MeCN. The filtrate was evaporated, and 500 ml of EtOAc were added. The organic layer was washed with H2O and dried over MgSO4 then concentrated. Chromatography of the crude on silica gel gave 2-{6-[({[(1-methyl-1H-1,2,4-triazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione (11.27 g, 74% yield) as a white solid.

reactant | (Z)-N-hydroxy-1-(1-methyl-1H-1,2,4-triazol-5-yl)-1-phenylmethanimine | 34.61 mmol, 7 g, 1.0 eq. | O\N=C(\C1=CC=CC=C1)/C1=NC=NN1C | C10H10N4O
reactant | Cs2CO3 | 38.07 mmol, 12.40 g, 1.1 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione | 34.61 mmol, 10.97 g, 1.0 eq. | BrCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
solvent | MeCN | 500 ml | CC#N | C2H3N
product | 2-{6-[({[(1-methyl-1H-1,2,4-triazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | 11.27 g, 74% yield | CN1N=CN=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C24H18N6O3
